US08871792B2
Butyric acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionyloxymethyl Ester
A mixture of chloromethyl butyrate (16.2 μL, 129 μmol) and NaI (19.4 mg, 129 μmol) in acetone (0.7 mL, 10 mmol) was heated at 65° C. for 1 hour. The mixture was then cooled to room temperature and a mixture of (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid (20.0 mg) and DIPEA (15.0 mL, 0.1 mmol) in acetone (0.3 mL) was added. The resulting mixture was stirred at room temperature for 1 hour then concentrated. The residue was dissolved in AcOH (2.0 mL), filtered, and purified by reverse phase preparative HPLC. The desired fractions were combined and freeze dried to yield a white solid. The solid was dissolved in acetic acid (1.5 mL), filtered and purified by reverse phase preparative HPLC to yield the title compound (6.5 mg, purity 100%). MS m/z [M+H]+ calc'd for C26H27ClFN3O8, 564.15. found. 564.

reactant | chloromethyl butyrate | 129 μmol, 16.2 μL | C(CCC)(=O)OCCl | C5H9ClO2
reactant | NaI | 129 μmol, 19.4 mg | [Na+].[I-]
reactant | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid | 20.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)O)O)F | C21H19ClFN3O6
reactant | DIPEA | 0.1 mmol, 15.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetone | 0.3 mL | CC(=O)C | C3H6O
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | acetone | 10 mmol, 0.7 mL | CC(=O)C | C3H6O
product | Butyric acid (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(3-methoxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionyloxymethyl Ester | 6.5 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)OC)C[C@H](C(=O)OCOC(CCC)=O)O)F | C26H27ClFN3O8
